reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[C:6]12.[H:13][H:14]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],47.884706002089885
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][H:11])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9],84.0052266903135
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O+:3]=[C-:2][C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],114.23770595564501
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10].[H:13][H:14],89.102333104694
[C:1]([C:5](/[C:4](=[C:3](\[C:2][H:9])[H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],3.163810031360285
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:5]([C:4]([C:3]([C:2]([H:8])([H:9])[H:14])([H:10])[H:11])([H:12])[H:13])=[O:6])[H:7],91.649630449511
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2]([O:3][C:4](=[O:5])[H:9])[N+:7]#[C-:6])[H:8],50.8789405375394
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])/[C:4]1=[C:5](\[O:6][H:11])[H:12])[H:7],69.846726675555
[C:1](=[C:2]([C:3]([C:4](=[C:5]=[N:6][H:8])[H:13])([H:11])[H:12])[H:10])([H:7])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],30.1265692976059
[O:1]([C:2](=[C:3]=[C:4]([C:5]#[C:6][H:10])[H:9])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7],76.4234656132786
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N+:5](=[C-:6][O:7][H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],33.297638038309884
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])=[C:4]([C:5](=[O:6])[H:12])[H:10],81.376984910955
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[C:4]=[N:5][H:11],53.2077182351215
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([O:6][H:11])[N:7]([H:15])[H:16],47.1005705911055
[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@:3]1([H:10])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:11])[H:14])([H:7])([H:8])[H:9],81.1179143235006
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:4]([O+:3]=[C:2]([H:11])[H:12])=[C:6]=[N-:7])[H:13])([H:8])([H:9])[H:10],126.658098291802
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:6]([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]=[O:5])([H:12])[H:13],110.53738716537599
[C:1]([C:2]#[C:3][H:7])([H:4])([H:5])[H:6]>>[C:1](=[C:2]=[C:3]([H:5])[H:7])([H:4])[H:6],84.5717205999481
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3]([C:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],60.431586512096096
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C-:3]=[O+:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],104.67463787452
[C:1]([O:2][C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10].[C:3]([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.384617605081587
[C:5](=[O:6])([H:10])[H:12].[O:1]([C:2]([C:3](=[O:4])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],47.136746318899995
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C-:3]=[O+:4][C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],105.753499860164
[C:1]([H:8])[H:10].[O:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],2.907660477620013
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C:3](=[C:5]=[C:6]([C:7]([H:13])([H:14])[H:15])[H:11])[O:4]1)([H:8])([H:9])[H:10],92.5086092569059
